US07569592B2
2-(1H-Pyrazol-4-yl)pyridine (300 mg, 2.0 mmol) was dissolved in DMF (10 mL), potassium carbonate (566 mg, 4 mmol) and 6-fluoropyridine-2-carbonitrile (250 mg, 2 mmol) was added. The reaction was heated at 140° C. for 16 h. The crude mixture was cooled to rt and diluted with EtOAc (300 mL) and washed with H2O (200 mL) and brine (200 mL). The organic phase was dried (MgSO4), filtered, and concentrated in vacuo. The residue was chromatographed on silica gel eluting with hexanes:EtOAc (7:3) to afford 6-(4-pyridin-2-yl-1H-pyrazol-1-yl)pyridine-2-carbonitrile. This material was dissolved in methylene chloride (5 mL) and, upon treatment with 1M HCl in diethyl ether (0.6 mL), precipitated as the hydrochloride salt. M.P. 260-261° C. 1H-NMR (CDCl3, 300 MHz) δ 9.67 (s, 1H), 8.83 (s, 1H), 8.79-8.77 (d, J=6 Hz, 1H), 8.47-8.29 (m, 4H), 8.13-8.10 (m, 1H) 7.77-7.73 (t, 1H). MS ESI) 249 (M++H).

reactant | 2-(1H-Pyrazol-4-yl)pyridine | 2.0 mmol, 300 mg | N1N=CC(=C1)C1=NC=CC=C1 | C8H7N3
reactant | potassium carbonate | 4 mmol, 566 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-fluoropyridine-2-carbonitrile | 2 mmol, 250 mg | FC1=CC=CC(=N1)C#N | C6H3FN2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 6-(4-pyridin-2-yl-1H-pyrazol-1-yl)pyridine-2-carbonitrile | N1=C(C=CC=C1)C=1C=NN(C1)C1=CC=CC(=N1)C#N | C14H9N5
